data/mechanisms/records/IMS8-EQ8.2e.json
{"mechanism_id": "IMS8-EQ8.2e", "species": [{"species_id": "hexan_2_one_molecular_ion", "mapped_smiles": "[CH3:1][CH:2]([1H:8])[CH2:3][CH2:4][C:5](=[O+:6])[CH3:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_gamma_H_ion", "mapped_smiles": "[CH3:1][CH:2][CH2:3][CH2:4][C:5](=[O+:6][1H:8])[CH3:7]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "propene_radical_cation", "mapped_smiles": "[CH3:1][CH:2][CH2+:3]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "acetone_enol_neutral", "mapped_smiles": "[CH2:4]=[C:5]([CH3:7])[O:6][1H:8]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["hexan_2_one_molecular_ion"]}, {"state_id": "state_distonic", "species_ids": ["distonic_gamma_H_ion"]}, {"state_id": "state_products", "species_ids": ["propene_radical_cation", "acetone_enol_neutral"]}], "steps": [{"step_id": "step_gamma_H_rearrangement", "from_state": "state_precursor", "to_state": "state_distonic", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [6, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 8]}, "target": {"type": "bond", "atom_maps": [6, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 8]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_inductive_1_6", "from_state": "state_distonic", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_e_rH", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_gamma_H_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 138, "equation": "8.2", "figure": null, "panel": null, "section": "Eq. 8.2, vertical 'rH' interconversion (Eo=0.6)"}, "confidence": 0.85, "curator_note": "Same gamma-H rearrangement to the distonic ion 6.2 as in record IMS8-EQ8.2d (shared precursor step for both McLafferty branches). Book draws 0 electron-pushing arcs: Eq. 8.2 is a thermochemical fragmentation map (log k printed above each reaction arrow, heats of formation printed below each species), not a curved-arrow figure. All electron moves here are curator-inferred from the mechanism-type label printed under the reaction arrow; none is drawn on the page. Three fishhooks: O6 odd electron -> forming O6-H8 bond; one C2-H8 electron -> O6-H8 bond; the other C2-H8 electron -> C2 (new gamma radical). H8 written [1H] to stay an atom-mapped node."}, {"evidence_id": "ev_step_e_ind", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_1_6", "support_type": "textbook_proposed", "locator": {"page": 138, "equation": "8.2", "figure": null, "panel": null, "section": "Eq. 8.2, arrow 1.6, inductive (charge-migration McLafferty)"}, "confidence": 0.75, "curator_note": "Charge-migration branch: the charge is carried away on the olefin, giving the propene radical cation C3H6+. (m/z 42, 2%) plus the neutral acetone enol CH2=C(OH)CH3 (-1.8). Book draws 0 electron-pushing arcs: Eq. 8.2 is a thermochemical fragmentation map (log k printed above each reaction arrow, heats of formation printed below each species), not a curved-arrow figure. All electron moves here are curator-inferred from the mechanism-type label printed under the reaction arrow; none is drawn on the page. TWO double-barbed (heterolytic) arrows: move<1> the whole beta C3-C4 sigma pair becomes the new C4=C5 pi bond; move<2> the C5=O6 pi pair collapses onto O6 as a lone pair, neutralising O+ to the neutral enol oxygen. C3 is thereby stripped of its bonding electrons and becomes the propene cation centre while the odd electron stays on C2 -- encoded as the localised CH3-CH(.)-CH2+ form of propene+. (its C2=C3 alkene resonance partner is the same ion)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_42", "species_id": "propene_radical_cation", "step_id": "step_inductive_1_6", "observed_mz": 42.0464, "relative_intensity": 0.02, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.75}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
